US07235572B2
In analogy to the procedure described in example 3 c], (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester (example 6 b]) was reacted with [rac]-3-[1,3]dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol in the presence of tributylphosphine and N,N,N′,N′-tetramethyl azodicarboxamide to obtain [rac]-(6-{3-dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid tert-butyl ester as yellow oil.

reactant | (6-hydroxy-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C14H17NO3
reactant | [rac]-3-[1,3]dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propan-1-ol | O1C(OCCC1)CCC(O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C18H20F3NO3S
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
product | [rac]-(6-{3-dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OC(CCC1OCCOC1)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C32H35F3N2O5S
